US06521643B1
To a suspension of 3-(4-methylpyridin-2-yl)aniline (276 mg), N,N′-bis (tert-butoxycarbonyl )thiourea (539 mg) and diisopropylethyl-amine (0.601 ml) in dichloromethane (15 ml) was added 1-methyl-2-chloropyridinium iodide (498 mg), and the mixture was stirred for 2.5 hours. The mixture was diluted with dichloromethane, washed with water and brine, dried over magnesium sulfate and evaporated under reduced pressure. The residue was purified by column chromatography (silica gel 45 g, n-hexane:ethyl acetate=9:1) to give N,N′-bis(tert-butoxycarbonyl) -N″-(3-(4-methylpyridin-2-yl)phenyl)guanidine (397 mg).

reactant | 3-(4-methylpyridin-2-yl)aniline | 276 mg | CC1=CC(=NC=C1)C=1C=C(N)C=CC1 | C12H12N2
reactant | N,N′-bis (tert-butoxycarbonyl )thiourea | 539 mg | C(C)(C)(C)OC(=O)NC(=S)NC(=O)OC(C)(C)C | C11H20N2O4S
reactant | diisopropylethyl-amine | 0.601 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1-methyl-2-chloropyridinium iodide | 498 mg | [I-].C[N+]1=C(C=CC=C1)Cl
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | N,N′-bis(tert-butoxycarbonyl) -N″-(3-(4-methylpyridin-2-yl)phenyl)guanidine | 397 mg | C(C)(C)(C)OC(=O)NC(=NC1=CC(=CC=C1)C1=NC=CC(=C1)C)NC(=O)OC(C)(C)C | C23H30N4O4
